US07423052B2
Description 97 (RS)-2 Carbamoylmethyl-piperidine-1-carboxylic acid tert butyl ester
The title compound (0.92 g) wvas prepared from 2-(RS)-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (2.0 g) and ammonium chloride (0.86 g) according to the method of Example 97.

reactant | 2-(RS)-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | ammonium chloride | 0.86 g | [Cl-].[NH4+]
product | (RS)-2 Carbamoylmethyl-piperidine-1-carboxylic acid tert butyl ester | 0.92 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(N)=O | C12H22N2O3
